US20010016659A1
Entry 54: 4-Bromobenzenesulfonyl chloride was reacted with methylamine according to Method A15, Step 1 to afford N-methyl-4-bromobenzenesulfonamide. N-Methyl-4-bromobenzenesulfonamide was coupled with phenol according to Method A15, Step 2 to afford 4-(4-(N-methylsulfamoyl)phenoxy)benzene. 4-(4-(N-Methylsulfamoyl)phenoxy)benzene was converted into 4-(4-(N-methylsulfamoyl)phenoxy)-1-nitrobenzene according to Method A15, Step 3. 4-(4-(N-Methylsulfamoyl)phienoxy)-1-nitrobenzene was reduced to 4-(4-N-methylsulfamoyl)phenyloxy)aniline according to Method A15, Step 4. According to Method C1a, 4-chloro-3-(trifluoromethyl)phenyl isocyanate was reacted with 4-(3-N-methylsulfamoyl)phenyloxy)aniline to afford the urea.

reactant | N-Methyl-4-bromobenzenesulfonamide | CNS(=O)(=O)C1=CC=C(C=C1)Br | C7H8BrNO2S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 4-(4-(N-methylsulfamoyl)phenoxy)benzene | CNS(=O)(=O)C1=CC=C(OC2=CC=CC=C2)C=C1 | C13H13NO3S
